US04448973
1-(p-Chlorophenyl)-5-methyl-3-methylamino-2-pyrazoline
To a stirred solution of 250 ml. of freshly distilled tetrahydrofuran under nitrogen is added cautiously 3.3 g. of lithium aluminum hydride, then 3.3 g. of N-[1-(p-chlorophenyl)-5-methyl-2-pyrazolin-3-yl]formamide is added and the mixture is refluxed under nitrogen for 4 hours. The reaction mixture is cooled. Then with stirring, 3.3 ml. of water is cautiously added dropwise, followed by 3.3 ml. of 15% aqueous sodium hydroxide solution and 10.0 ml. of water. The mixture is filtered and the residue is washed with ether. The combined filtrate and wash is evaporated to dryness giving a gum which solidifies. The solid is collected, washed with hexane and dried. The product of the Example is recrystallized from dichloromethane-hexane to give 2.3 g. of white crystals, m.p. 102°-103° C.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-[1-(p-chlorophenyl)-5-methyl-2-pyrazolin-3-yl]formamide | ClC1=CC=C(C=C1)N1N=C(CC1C)NC=O | C11H12ClN3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(p-Chlorophenyl)-5-methyl-3-methylamino-2-pyrazoline | ClC1=CC=C(C=C1)N1N=C(CC1C)NC | C11H14ClN3
